US04339588
4-BENZYLOXYISOXAZOLE
A mixture containing 200 mg of 4-hydroxyisoxazole in 10 ml of acetone together with 1.5 equivalents of benzyl bromide and 1.5 equivalents of potassium carbonate is stirred at about 25° C. for five hours. The solid is filtered and the filtrate concentrated to an oil. The crude material is purified by chromatography on silica gel.

reactant | 4-hydroxyisoxazole | 200 mg | OC=1C=NOC1 | C3H3NO2
reactant | benzyl bromide | 1.5 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.5 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-BENZYLOXYISOXAZOLE | C(C1=CC=CC=C1)OC=1C=NOC1 | C10H9NO2
